US07153851B2
(3R,4R)-1-Benzyloxycarbonyl-3-(tert-butyldimethylsilyl)oxymethyl-4-(tert-butyldimethylsilyl)oxypyrrolidine (5.46 g) was dissolved in tetrahydrofuran (23 mL). While this solution was cooled on an ice bath, water (23 mL) and acetic acid (68 mL) were sequentially added and the mixture was stirred at room temperature for 8 hours. Subsequently, the reaction mixture was concentrated under reduced pressure and the resulting residue was purified on a silica gel column (eluant=hexane:ethyl acetate=4:1 shifted to 1:1) to give 2.74 g of (3R,4R)-1-benzyloxycarbonyl-3-hydroxymethyl-4-(tert-butyldimethylsilyloxy)pyrrolidine as a colorless oil.

reactant | (3R,4R)-1-Benzyloxycarbonyl-3-(tert-butyldimethylsilyl)oxymethyl-4-(tert-butyldimethylsilyl)oxypyrrolidine | 5.46 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C | C25H45NO4Si2
reactant | water | 23 mL | O | H2O
reactant | acetic acid | 68 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 23 mL | O1CCCC1 | C4H8O
product | (3R,4R)-1-benzyloxycarbonyl-3-hydroxymethyl-4-(tert-butyldimethylsilyloxy)pyrrolidine | 2.74 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)O[Si](C)(C)C(C)(C)C)CO | C19H31NO4Si
